US04774253
A solution of 15.65 g (0.1 mol) of 4-chlorobenzoic acid in 20 ml of dimethylformamide was added dropwise to a stirred suspension of 5.3 g (0.05 mol) of anhydrous sodium carbonate in 80 ml of dimethylformamide. The suspension was heated at 80° C. for 1 hour and a solution of 16.46 g (0.1 mol) of ethyl 2-chloroacetoacetate in 10 ml of dimethylformamide was added. The suspension was heated at 80° C. for 6 hours and left to cool overnight. The solvent was removed by evaporation under reduced pressure and the residue was partitioned between 400 ml of water and 300 ml of diethyl ether. The organic phase was separated and washed twice with 300 ml of water. The organic phase was dried over magnesium sulphate, filtered and the solvent was removed by evaporation under reduced pressure to yield 26.86 g (94%) of ethyl 2-(4-chlorobenzoyloxy)-3-oxo-butyrate in the form of an oil which was homogeneous according to thin-layer chromatography.

reactant | 4-chlorobenzoic acid | 0.1 mol, 15.65 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | sodium carbonate | 0.05 mol, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 2-chloroacetoacetate | 0.1 mol, 16.46 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4-chlorobenzoyloxy)-3-oxo-butyrate | 26.86 g, 94% | ClC1=CC=C(C(=O)OC(C(=O)OCC)C(C)=O)C=C1 | C13H13ClO5
